US07138410B2
3-Quinuclidinecarbonyl Chloride Hydrochloride
500 mg (2.61 mmol) of 3-quinuclidinecarboxylic acid hydrochloride (Orlek et al., J. Med. Chem. 1991, 34, 2726) are boiled together with 1.9 ml (26.09 mmol) of thionyl choride under reflux for 2 h. The reaction mixture is freed of thionyl chloride under reduced pressure. 20 ml portions of toluene are twice added and evaporated to dryness. The product obtained in this way is reacted further without further purification.

reactant | 3-quinuclidinecarboxylic acid hydrochloride | 2.61 mmol, 500 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | thionyl choride | 26.09 mmol, 1.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Quinuclidinecarbonyl Chloride Hydrochloride | Cl.N12CC(C(CC1)CC2)C(=O)Cl | InChI=1S/C8H12ClNO.ClH/c9-8(11)7-5-10-3-1-6(7)2-4-10;/h6-7H,1-5H2;1H
